US09302989B2
N-[4-(9-chloro-5-oxo-2,3,3a,4,4a,5-hexahydro-6H-furo[2′,3′:2,3]cyclobuta[1,2-c]quinolin-6-yl)butyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 272B, substituting 6-(4-aminobutyl)-9-chloro-3,3a,4,4a-tetrahydro-2H-furo[2′,3′:2,3]cyclobuta[1,2-c]quinolin-5(6H)-one for 4-amino-N-propylbenzamide and 1,3-dihydro-2H-pyrrolo[3,4-c]pyridine for methyl isoindoline-5-carboxylate hydrochloride. 1H NMR (400 MHz, CDCl3) δ ppm 8.58 (s, 1H), 8.54 (d, J=4.9 Hz, 1H), 7.29 (d, J=4.9 Hz, 1H), 7.25 (m, 1H), 7.23 (d, J=2.6 Hz, 1H), 6.92 (d, J=8.9 Hz, 1H), 4.84 (t, J=5.6 Hz, 1H), 4.74 (bs, 4H), 4.46 (t, J=8.1 Hz, 1H), 4.22 (m, 1H), 4.05 (m, 1H), 3.91 (m, 1H), 3.39 (m, 3H), 2.93 (m, 1H), 2.31 (m, 1H), 2.22 (m, 1H), 1.84 (m, 1H), 1.69 (m, 5H); MS (ESI(+)) m/e 467 (M+H)+.

reactant | 4-amino-N-propylbenzamide | NC1=CC=C(C(=O)NCCC)C=C1 | C10H14N2O
reactant | 1,3-dihydro-2H-pyrrolo[3,4-c]pyridine | C1NCC=2C=NC=CC21 | C7H8N2
reactant | methyl isoindoline-5-carboxylate hydrochloride | Cl.C1NCC2=CC(=CC=C12)C(=O)OC
product | N-[4-(9-chloro-5-oxo-2,3,3a,4,4a,5-hexahydro-6H-furo[2′,3′:2,3]cyclobuta[1,2-c]quinolin-6-yl)butyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | ClC1=CC=2C34C(C(N(C2C=C1)CCCCNC(=O)N1CC=2C=NC=CC2C1)=O)CC3CCO4 | C25H27ClN4O3
